Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
COPD exacerbation, fever 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo man with h/o asthma, afib s/p cardioversion presents with 
fever to 102, cough productive of green-yellow sputum x 2d, 
shortness of breath. Pt. has had 2d of fevers, cough, without 
myalgias, sore throat, URI sx., dysuria, diarrhea, abdominal 
pain. He has had no sick contacts. Currently has SOB with 
minimal effort and has had decreased po intake in last 2 days. 
Long history of asthma with multiple hospitalizations.  
.  
ED COURSE: In ED, T 102.8 BP 137/76, HR 92, RR 14 94-95%RA. 
Blood cx. drawn, CXR showed no acute process, but pt. very 
wheezy on exam, so pt. given ceftriaxone, azithromycin, 
solumedrol 125mg X 1, albuterol x 1 for PNA/COPD exacerbation. 
Also found to have Cr 1.8 from ___ 1.2, and started on IVFs, 
receiving 250cc prior to arrival to floor.  
.  
On floor, pt. comfortable, without complaints other than wanting 
to eat.  

 
Past Medical History:
- Asthma  
- Hypercholesterolemia  
- "double vision"  
- Stage I rectal cancer s/p LAR with post resection pain  
- s/p ___ for OSA  
- h/o afib with RVR X 1, cardioverted in ___ with f/u ___ only 
showing apBs  
- CRI, ___ 1.2  

 
Social History:
___
Family History:
NC
 
Physical Exam:
T: 97.6 BP: 154/89 HR: 63 RR: 20 O2 sats: 97%RA  
Gen: sl. overweight NAD, AA&Ox3, comfortable, speaking full 
sentences  
HEENT: PERRL, EOMI, OP clear, MMM  
Neck: no JVD,  
CV: RRR no MRGs, nl S1S2  
Resp: Diffuse wheezes bilaterally, no rhonchi, poor air movement 
 
Abd: NABS, soft, NTND, no guarding/rigidity/rebound  
Back: no CVA tenderness, no spinal TTP  
Ext: no CCE, 2+/4 symmetric pedal pulses  
Neuro: CN II-XII intact, ___ all 4 ext., nl sensation to LT  

 
Pertinent Results:
REPORTS:
.
CXR: IMPRESSION: No acute cardiopulmonary process.
.
LABS:
.

___ 08:50PM BLOOD Hct-41.7
___ 08:30PM BLOOD WBC-7.4 RBC-4.97 Hgb-16.1 Hct-46.7 MCV-94 
MCH-32.3* MCHC-34.4 RDW-13.1 Plt ___
___ 08:30PM BLOOD Neuts-78.1* Lymphs-14.1* Monos-7.0 
Eos-0.3 Baso-0.6
___ 07:10AM BLOOD Plt ___
___ 08:30PM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-215* UreaN-19 Creat-1.4* Na-139 
K-4.2 Cl-104 HCO3-20* AnGap-19
___ 08:30PM BLOOD Glucose-168* UreaN-22* Creat-1.8* Na-141 
K-3.6 Cl-102 HCO3-27 AnGap-16
___ 07:10AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.8
___ 06:45AM BLOOD %HbA1c-PND
___ 11:32PM BLOOD Lactate-1.2
___ 08:42PM 
.
MICRO:
.
Blood cx's: Pending
Urine cx: pending

 
Brief Hospital Course:
___ with h/o asthma/copd with fever and asthma/copd 
exacerbation.  
.  
# Asthma/COPD exacerbation: Pt had wheezes with poor air 
movement on admission, s/p methylprednisolone x 1 and 
Ceftriaxone in ED, then satting well on RA with improving lung 
exam during the admission.  Pt was given PO prednisone, and will 
continue on a prednisone taper.  He was given albuterol/atrovent 
nebs, and remained comfortable without resp distress during the 
admission. Ceftriaxone was stopped, and he was treated with a 
course of azithromycin because of his fever in setting of COPD 
exacerbation. His ambulatory O2 sat was 95% on discharge.
.  
# fever: likely was ___ bronchitis given negative CXR, negative 
UA, and normal WBC count.  He was treated with azithromycin and 
was afebrile on discharge. Blood and urine cx's were pending on 
discharge. He had some mild diarrhea prior to discharge, but 
this was thought to be antibiotic associated diarrhea and was 
mild enough not to warrant further workup.
.
# hyperglycemia: no dx. of diabetes, but has consistently high 
sugars in past even prior to steroids, so likely has diabetes. 
His ___ were elevated to 300's on admission, which improved with 
an insulin sliding scale. An A1c was pending on time of 
discharge, and pt should follow-up with his PCP regarding 
possible initiation of oral hypoglycemics.
.
# rectal bleeding: pt has hx of rectal CA in the past s/p 
resection. He had a mild episode of rectal bleeding during this 
admission, and his hct remained stable. He should follow-up with 
his PCP regarding further workup of this rectal bleeding.
.  
# CRI: up to 1.8 on admission, likely pre-renal. He was given 
IVF, and his Cr improved to 1.4 on discharge.
.  
# FULL CODE  
# Dispo: home
 
Medications on Admission:
symbicort (budesonide/formeterol) PRN  
albuterol PRN  
tylenol ___  

 
Discharge Medications:
1. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 2 doses.
Disp:*2 Tablet(s)* Refills:*0*
2. Prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 3 doses: Take 60mg ___, then decrease to 40mg for 
___ and ___, then decrease to 20mg ___ and ___, then stop.
Disp:*9 Tablet(s)* Refills:*0*
3. Symbicort 80-4.5 mcg/Actuation HFA Aerosol Inhaler Sig: One 
(1)  Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
4. Albuterol 90 mcg/Actuation Aerosol Sig: One (1)  Inhalation 
every ___ hours as needed for shortness of breath or wheezing.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
COPD exacerbation
Acute on Chronic renal failure
G.I. bleed
Hypertension

 
Discharge Condition:
Stable

 
Discharge Instructions:
You are being discharged from the hospital after being admitted 
for COPD exacerbation.  You had a fever on admission, but have 
been afebrile since starting antibiotics.  You were also started 
on steroids to help treat your pulmonary condition, which should 
be tapered over then next few days.  Please take all medications 
as prescribed.
   If you develop SOB, continued fevers, lightheadedness, or any 
other concerning symptoms, you should call your PCP or go to the 
emergency room.
 
Followup Instructions:
___